US04168282
Following the batch procedure, 162.3 g (1 mole) of 1,5,9-cyclododecatriene and 66.0 g. (0.5 mole) of dicyclopentadiene in 100 g. of methylchloroform are reacted for 4 hours at 200° C. to yield a high yield of tricyclo [12.2.1.02,13 ] heptadeca-5,9,15-triene.

reactant | 1,5,9-cyclododecatriene | 1 mole, 162.3 g | C1=CCCC=CCCC=CCC1 | C12H18
reactant | dicyclopentadiene | 0.5 mole | C1C=CC2C1C3CC2C=C3 | C10H12
reactant | methylchloroform | CC(Cl)(Cl)Cl | C2H3Cl3
product | tricyclo [12.2.1.02,13 ] heptadeca-5,9,15-triene | C12C3CCC=CCCC=CCCC3C(C=C1)C2 | C17H24
